US05811389
A suspension of 21.75 g (83.9 mmol) of 3,7-dimethoxyphenothiazine, 43.36 g (0.34 mmol) of dried, powdered potassium carbonate, 25.22 g (0.20 mol) of dimethyl sulphate and 1.35 g (4.19 mmol) of tris-[2-(2-methoxyethoxy)ethyl]amine in 300 ml of toluene was stirred at 110° for 1 hour, then cooled and poured into 1 l of ice-water. The mixture was acidified slightly with 2N hydrochloric acid solution and extracted with ethyl acetate. The combined organic phases were extracted with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was crystallized from ethanol/acetone, whereupon, after drying, 18.4 g (80.2%) of 3,7-dimethoxy-10-methylphenothiazine were obtained as a white solid of m.p. 166°-167°.

reactant | 3,7-dimethoxyphenothiazine | 83.9 mmol, 21.75 g | COC=1C=CC=2NC3=CC=C(C=C3SC2C1)OC | C14H13NO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 0.20 mol, 25.22 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris-[2-(2-methoxyethoxy)ethyl]amine | 4.19 mmol, 1.35 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
product | 3,7-dimethoxy-10-methylphenothiazine | 18.4 g, 80.2% | COC=1C=CC=2N(C3=CC=C(C=C3SC2C1)OC)C | C15H15NO2S
